US07199127B2
140 mg (0.24 mmol) of (2S,3S,4R,5R)-[5-(6-amino-2-chloro-purin-9-yl)-3,4-bis(tert-butyldimethylsilanyloxy)tetrahydrothiophen-2-yl]-methyl amide from the aforementioned Experimental Example 28 were dissolved in 10 mL of anhydrous tetrahydrofuran to which 0.67 mL (0.67 mmol, 1M tetrahydrofuran solution) of tetrabutylammonium fluoride was added. The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was distilled under reduced pressure and the concentrate was purified by silica gel column chromatography using the eluant (dichloromethane:methanol=4:1) to obtain 58 mg (yield: 69%) of (2S,3S,4R,5R)-5-(6-amino-2-chloro-purin-9-yl)-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide as white solids (see Table 3).

reactant | (2S,3S,4R,5R)-[5-(6-amino-2-chloro-purin-9-yl)-3,4-bis(tert-butyldimethylsilanyloxy)tetrahydrothiophen-2-yl]-methyl amide | 0.24 mmol, 140 mg | NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](S1)[N-]C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C
reactant | tetrabutylammonium fluoride | 0.67 mmol, 1M, 0.67 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2S,3S,4R,5R)-5-(6-amino-2-chloro-purin-9-yl)-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide | 58 mg, yield: 69% | CNC(=O)[C@H]1S[C@H]([C@@H]([C@@H]1O)O)N1C2=NC(=NC(=C2N=C1)N)Cl | C11H13ClN6O3S
